US05254595
Following the general procedure of Example 98, but starting from 1-(2-naphthyloxy)-2,3-epoxypropane (4.5 g) and 1-aminotetralin (2.95 g), N-(1,2,3,4-tetrahydronaphth-1-yl)-2-hydroxy-3-(2-naphthyloxy)propanamine free base is obtained as an oily product which is dissolved in an isopropyl ether/isopropanol 1/1 mixture (40 ml) and acidified with HC1/isopropanol. The corresponding hydrochloride is thus obtained which is crystallized from isopropanol (20 ml). Yield: 2.2 g; m.p. 135°-137° C.

reactant | 1-(2-naphthyloxy)-2,3-epoxypropane | 4.5 g | C1=C(C=CC2=CC=CC=C12)OCC1CO1 | C13H12O2
reactant | 1-aminotetralin | 2.95 g | NC1CCCC2=CC=CC=C12 | C10H13N
product | N-(1,2,3,4-tetrahydronaphth-1-yl)-2-hydroxy-3-(2-naphthyloxy)propanamine | C1(CCCC2=CC=CC=C12)NCC(COC1=CC2=CC=CC=C2C=C1)O | C23H25NO2
